US06340670B1
(3,4-Dimethoxy-phenyl)-acetic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester
The title compound was prepared as a white foam (0.105 g, 89%) from (3,4-dimethoxy-phenyl)-acetic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester using a procedure similar to Example 25, mp >98° C. (decomp.); 1H NMR (DMSO-d6) δ1.92 (s, 3H), 1.94 (s, 3H), 1.97 (s, 3H), 1.99 (s, 3H), 2.07 (s, 3H), 3.62-3.77 (m, 4H), 3.66 (s, 3H), 3.67 (s, 3H), 3.89 (t, J=9.2 Hz, 2H), 3.99-4.03 (m, 1H), 4.10 (dd, J=10.5, 16.0 Hz, 1H), 4.19 (dd, J=4.4, 11.9 Hz, 1H), 4.44-4.50 (m, 2H), 4.64-4.70 (m, 2H), 4.84 (d, J=8.1 Hz, 1H), 4.87 (dd, J=4.0, 10.1 Hz, 1H), 5.21 (d, J=3.7 Hz, 1H), 5.25 (d, J=9.9 Hz, 1H), 5.30 (t, J=9.2 Hz, 1H), 5.62 (s, 1H), 6.77 (dd, J=1.8, 8.1 Hz, 1H), 6.81 (d, J=8.3 Hz, 1H), 6.86 (d, J=1.8 Hz, 1H), 7.04 (dd, J=1.8, 8.3 Hz, 1H), 7.35 (s, 5H), 7.44 (d, J=8.1 Hz, 1H), 7.61 (s, 1H), 9.51 (s, 1H); IR (KBr) 3370, 2930, 2860, 1755, 1690, 1600, 1520, 1450, 1420, 1370, 1240, 1140, 1055, and 1030 cm−1; mass spectrum [(+) FAB], m/z 958/960 (M+H)+, 980/982 (M+Na)+; Anal. Calcd. for C46H52ClNO19.1.75 H2O: C, 55.81; H, 5.65; N, 1.41, Found: C, 55.60; H, 5.14; N, 1.38.

reactant | (3,4-dimethoxy-phenyl)-acetic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)NC=1C=C(COC2C(C(C(C(O2)COC(CC2=CC(=C(C=C2)OC)OC)=O)OC2C(C(C3OC(OCC3O2)C2=CC=CC=C2)O)O)O)O)C=CC1Cl | C38H44ClNO15
reactant | KBr | [K+].[Br-]
solvent | H2O | O | H2O
product | (3,4-Dimethoxy-phenyl)-acetic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)OC1C(C(OC(C1OC(C)=O)OCC1=CC(=C(C=C1)Cl)NC(C)=O)COC(CC1=CC(=C(C=C1)OC)OC)=O)OC1C(C(C2OC(OCC2O1)C1=CC=CC=C1)OC(C)=O)OC(C)=O | C46H52ClNO19
